US08039460B2
Step D: Benzyl 4-(6-methyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate
Hydrazine (4.72 mL, 148.7 mmol) was added to a solution of benzyl 4-[1-(ethoxycarbonyl)-3-oxobutyl]piperidine-1-carboxylate (2.69 g, 7.44 mmol) in acetic acid (110 mL). The reaction mixture was heated at 50° C. After 1 h, the reaction mixture was concentrated. The residue was diluted with dichloromethane, neutralized by saturated aqueous sodium bicarbonate. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate and concentrated to give the title compound. MS 330.2 (M+1).

reactant | Hydrazine | 148.7 mmol, 4.72 mL | NN | H4N2
reactant | benzyl 4-[1-(ethoxycarbonyl)-3-oxobutyl]piperidine-1-carboxylate | 7.44 mmol, 2.69 g | C(C)OC(=O)C(CC(C)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H27NO5
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
product | Benzyl 4-(6-methyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate | CC=1CC(C(NN1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H23N3O3
